US07981874B2
Dimethyl {[({[4-({[2-amino-5-(2-thienyl)phenyl]amino}carbonyl)benzyl]amino}carbonyl) oxy]methyl}phosphonate.
Dimethyl {[({[4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)benzyl]amino}carbonyl)oxy]methyl}phosphonate 0.496 g, 0.841 mmol) was dissolved in DCM (4 ml). TFA (1 ml, 12.98 mmol) was added. The reaction was allowed to stir for ˜1 h 15 min. The reaction was diluted with DCM and washed with saturated aqueous sodium hydrogen carbonate. The aqueous layer was extracted three times with DCM. The combined organic layers were dried over Na2SO4, filtered, and concentrated. 1H NMR (DMSO-d6, 600 MHz) δ 9.67 (s, 1H), 8.13 (t, J=6.3 Hz, 1H), 7.93 (d, J=7.9 Hz, 2H), 7.44 (bs, 1H), 7.35 (d, J=7.9 Hz, 2H), 7.32 (dd, J=5.1 Hz, 1.0 Hz, 1H), 7.26 (dd, J=8.4 Hz, 2.2 Hz, 1H), 7.21 (d, J=3.1 Hz, 1H), 7.01 (dd, J=5.1 Hz, 3.7 Hz, 1 H), 6.77 (d, J=8.2 Hz, 1H), 5.11 (s, 2H), 4.39 (d, J=7.9 Hz, 2H), 4.25 (d, J=6.2 Hz, 2H), 3.66 (d, J=10.6 Hz, 6H). MS: calc'd 490 (MH+), exp 490 (MH+).

reactant | Dimethyl {[({[4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)benzyl]amino}carbonyl)oxy]methyl}phosphonate | 0.841 mmol, 0.496 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(CNC(=O)OCP(OC)(OC)=O)C=C1 | C27H32N3O8PS
reactant | TFA | 12.98 mmol, 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | Dimethyl {[({[4-({[2-amino-5-(2-thienyl)phenyl]amino}carbonyl)benzyl]amino}carbonyl) oxy]methyl}phosphonate | NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(CNC(=O)OCP(OC)(OC)=O)C=C1 | C22H24N3O6PS
